US05773476
N-3-Phenyl-n-propyl cyanomethylsulfonamide was prepared with 3-phenyl-n-propylamine and cyanomethylsulfonly chloride under similar conditions as described for N-benzyl cyanomethylsulfonamide (Part A, M40).

reactant | 3-phenyl-n-propylamine | C1(=CC=CC=C1)CCCN | C9H13N
reactant | cyanomethylsulfonly chloride | C(#N)CS(=O)(=O)Cl | C2H2ClNO2S
reactant | N-benzyl cyanomethylsulfonamide | C(C1=CC=CC=C1)NS(=O)(=O)CC#N | C9H10N2O2S
product | N-3-Phenyl-n-propyl cyanomethylsulfonamide | C1(=CC=CC=C1)CCCNS(=O)(=O)CC#N | C11H14N2O2S
